US03946027
2-Methyl-4-(2'-azidophenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester. ##SPC47##
A solution of 14.7 g of 2-azidobenzaldehyde, 19 g of oxalacetic acid diethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 40 ccs of ethanol is heated to the boil overnight and evaporated in vacuo. Yellow-brown oil.

reactant | 2-azidobenzaldehyde | 14.7 g | N(=[N+]=[N-])C1=C(C=O)C=CC=C1 | C7H5N3O
reactant | oxalacetic acid diethyl ester | 19 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-(2'-azidophenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)N=[N+]=[N-])C(=O)OCC)C(=O)OCC)C | C21H24N4O6
